US04237138
4-Amino-2-chloro-6,7-dimethoxyquinazoline (4.3 g.), 4-(2-ethoxyethoxy)piperidine (3.2 g.) and triethylamine (10 ml.) in n-butanol (400 ml.) were heated at reflux overnight under an atmosphere of nitrogen. The mixture was then cooled, evaporated in vacuo, and the residue basified (aqueous Na2CO3) and extracted 3 times with chloroform. The combined chloroform extracts were evaporated and the residue chromatographed on neutral alumina (150 g., Grade I, deactivated with 5 ml water). Elution with chloroform gave the crude product (3.6 g.) which was converted to the hydrochloride salt by treatment with hydrogen chloride in ethanol. The hydrochloride was then recrystallized from ethanol/isopropanol to give 4-amino-6,7-dimethoxy-2-[4-(2-ethoxyethoxy)piperidino]quinazoline hydrochloride (3.4 g.), m.p. 219°-220° C.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 4.3 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 4-(2-ethoxyethoxy)piperidine | 3.2 g | C(C)OCCOC1CCNCC1 | C9H19NO2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | n-butanol | 400 ml | C(CCC)O | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-6,7-dimethoxy-2-[4-(2-ethoxyethoxy)piperidino]quinazoline hydrochloride | 3.4 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)OCCOCC | InChI=1S/C19H28N4O4.ClH/c1-4-26-9-10-27-13-5-7-23(8-6-13)19-21-15-12-17(25-3)16(24-2)11-14(15)18(20)22-19;/h11-13H,4-10H2,1-3H3,(H2,20,21,22);1H
